US05502225
C18H37NHCOOCH2CH2C8F17
Octadecyl isocyanate (29.5 g, 0.1 moles) and C8F17CH2CH2OH (46.4 g, 0.1 moles) were mixed under nitrogen and heated with stirring to 90° C. for 8 hours. An infrared spectrum showed no -NCO absorption, indicating completion of the reaction. The product is a white wax melting at 72-75° C. NMR showed proton resonances at 4.7 ppm (1 proton NH), 4.4 ppm (2 proton CH2OCO-), 3.2 ppm (2 protons CH2CH2NH), 2.5 ppm (2 protons C8F17CH2), 1.3 ppm (32 protons CH3(CH2)16) and 0.8 ppm (3 protons CH3 (CH2)16).

reactant | Octadecyl isocyanate | 0.1 moles, 29.5 g | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
reactant | C8F17CH2CH2OH | 0.1 moles, 46.4 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)CCO | C10H5F17O
product | C18H37NHCOOCH2CH2C8F17 | C(CCCCCCCCCCCCCCCCC)NC(=O)OCCC(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C29H42F17NO2
